US07851623B2
Benzyl 4-(benzyloxy)-5-methoxy-2-nitrobenzoate (77 g) was dissolved in acetonitrile (882 ml). Sodium dithionite (160.5 g) was added to the solution and the temperature adjusted to 25° C. Water (588 ml) was then added, maintaining the temperature at 25° C. The pH was maintained at 6 using 8.8 M sodium hydroxide during the reduction. The slurry was then heated to 65° C. and the lower aqueous phase was removed. Concentrated hydrochloric acid (35% w/w, 7.25 ml) was then added. The slurry was allowed to cool to 40° C. and then to 20° C. Sodium hydroxide solution (47% w/w, 12.4 ml) was added and the slurry cooled to 0° C. The product (benzyl 2-amino-4-(benzyloxy)-5-methoxybenzoate) was isolated by filtration, washed with water (2×196 ml) and then dried at 40° C. under vacuum. Yield: 66.2 g, 92.4%;

reactant | Benzyl 4-(benzyloxy)-5-methoxy-2-nitrobenzoate | 77 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OCC2=CC=CC=C2)C=C1OC)[N+](=O)[O-] | C22H19NO6
reactant | Sodium dithionite | 160.5 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | Water | 588 ml | O | H2O
reactant | sodium hydroxide | 8.8 M | [OH-].[Na+]
solvent | acetonitrile | 882 ml | C(C)#N | C2H3N
product | benzyl 2-amino-4-(benzyloxy)-5-methoxybenzoate | NC1=C(C(=O)OCC2=CC=CC=C2)C=C(C(=C1)OCC1=CC=CC=C1)OC | C22H21NO4
